US05952351
A solution of 1-(5-benzyloxycarbonylamino-2-methyl-2-pentyl)-4-(3-ethyl-2-oxo-1-benzimidazolinyl)piperidine (93 mg, 0.19 mmol) in methanol (8 mL) containing chloroform (0.04 mL, 0.05 mmol) and 10% palladium/carbon (45 mg) was hydrogenated at atmospheric pressure for two days. The catalyst was removed by filtration, the solvent evaporated and the residue redissolved in chloroform. This solution was washed with aq. Na2CO3, dried (Na2SO4) and evaporated to give 1-(5-amino-2-methyl-2-pentyl)-4-(3-ethyl-2-oxo-1-benzimidazolinyl)piperidine as an oil.

reactant | 1-(5-benzyloxycarbonylamino-2-methyl-2-pentyl)-4-(3-ethyl-2-oxo-1-benzimidazolinyl)piperidine | 0.19 mmol, 93 mg | C(C1=CC=CC=C1)OC(=O)NCCCC(C)(C)N1CCC(CC1)N1C(N(C2=C1C=CC=C2)CC)=O | C28H38N4O3
reactant | chloroform | 0.05 mmol, 0.04 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 8 mL | CO | CH4O
catalyst | palladium/carbon | 45 mg | [Pd] | Pd
product | 1-(5-amino-2-methyl-2-pentyl)-4-(3-ethyl-2-oxo-1-benzimidazolinyl)piperidine | NCCCC(C)(C)N1CCC(CC1)N1C(N(C2=C1C=CC=C2)CC)=O | C20H32N4O
